US08373159B2
Synthesis of 3,6-bis(triphenylsilyl)-9H-carbazole without intermediate isolation (method 1)
A solution of 3,6-dibromocarbazole (9.1 g, 1 eq) in dry THF (400 ml) at 0° C. under argon is admixed slowly with NaH (60% in mineral oil, 1.3 g, 1.2 eq) and stirred at 0° C. for 2 h. After adding a solution of chlorotriethylsilane (5.1 g, 1.2 eq) in dry THF (80 ml), the solution is stirred at RT (room temperature) for 1 h. The solution is cooled to −78° C. and admixed with n-butyllithium (1.6 M in hexane, 43.8 ml, 2.5 eq) and stirred at −78° C. for 1 h. After adding a solution of chlorotriphenylsilane (29.8 g, 3.5 eq) in dry THF (100 ml) at −78° C., the mixture is warmed to room temperature overnight with stirring. Excess butyllithium is hydrolyzed with saturated ammonium chloride solution. The precipitated product is filtered off and washed thoroughly with methylene chloride. The combined methylene chloride filtrates are extracted by shaking with water and dried over sodium sulfate. The organic phase is admixed with tetra-n-butylammonium fluoride (TBAF, 1 M in THF, 2 ml) and stirred at RT for 4 h. The mixture is concentrated down to 100 ml. The resulting precipitate is filtered and washed with n-hexane. Yield 66%.

reactant | 3,6-dibromocarbazole | 9.1 g, 1 eq | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | NaH | 1.3 g, 1.2 eq | [H-].[Na+]
reactant | chlorotriethylsilane | 5.1 g, 1.2 eq | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | n-butyllithium | 1.6 M, 43.8 ml, 2.5 eq | C(CCC)[Li]
reactant | chlorotriphenylsilane | 29.8 g, 3.5 eq | Cl[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3,6-bis(triphenylsilyl)-9H-carbazole | Yield 66% | C1(=CC=CC=C1)[Si](C=1C=CC=2NC3=CC=C(C=C3C2C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H37NSi2
